US07098226B2
Ethanol (36 ml) was added to bromoacetic acid (5.00 g, 36.0 mmol), and the mixture was stirred under ice-cold water-cooling. Propylamine (14.8 ml, 180 mmol) was added to the mixture over one minute, and then the whole was stirred at an external temperature of 80° C. for 2.5 hours. A 4 N aqueous sodium hydroxide solution (27 ml) was added thereto, and the whole was concentrated under reduced pressure. Then, water (27 ml) and tetrahydrofuran (30 ml) were added to the concentrate, and the mixture was stirred at room temperature. A solution of di-t-butyl carbonate (9.43 g, 43.2 mmol) in tetrahydrofuran (6 ml) was added to the mixture, and after 15 minutes, citric acid monohydrate was added to the reaction mixture to acidify it weakly. The whole was extracted with ethyl acetate (150 ml), and the organic layer was washed with water (100 ml) and saturated brine (50 ml) successively. The organic layer was dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 5.06 g (65%) of 2-[N-(t-butoxycarbonyl)-N-propylamino]acetic acid as a colorless solid.

reactant | bromoacetic acid | 36.0 mmol, 5.00 g | BrCC(=O)O | C2H3BrO2
reactant | Propylamine | 180 mmol, 14.8 ml | C(CC)N | C3H9N
reactant | sodium hydroxide | 4 N, 27 ml | [OH-].[Na+]
reactant | di-t-butyl carbonate | 43.2 mmol, 9.43 g | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
reactant | citric acid monohydrate | O.C(CC(O)(C(=O)O)CC(=O)O)(=O)O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | Ethanol | 36 ml | C(C)O | C2H6O
product | 2-[N-(t-butoxycarbonyl)-N-propylamino]acetic acid | 5.06 g, 65% | C(C)(C)(C)OC(=O)N(CCC)CC(=O)O | C10H19NO4
